US07919498B2
A solution of 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (280 mg, 1.1 eq) in DMF (3 mL) was treated with NaH (1.2 eq, 80 mg, 60%) and the reaction mixture was stirred at rt for 30 min before addition of 3-(chloromethyl)-2-(2-chlorophenyl)-8-methylquinoline (500 mg, 1.7 mmol) in DMF (2 mL). After 2 h at rt, the mixture was partitioned between EtOAc (50 mL) and H2O (30 mL), the layers were separated, and the aqueous layer was extracted with EtOAc (2×30 mL). The combined organic layers were dried (Na2SO4), concentrated and purified by flash chromatography (0% to 25% EtOAc/hexane) to provide 3-((4-chloro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl)-2-(2-chlorophenyl)-8-methylquinoline as a white foam. This material (60 mg, 0.14 mmol) was dissolved in EtOH (4 mL) and treated with NH3 gas for 3 min. The sealed tube was heated at 80° C. for 4 days. The reaction mixture was concentrated and purified by column chromatography on silica gel (eluent: DCM/MeOH, 20/1) to provide a white solid [PI3Kδ IC50=1968 nM]. 1H-NMR (DMSO-d6) δ 7.94 (s, 1H), 7.89 (s, 1H), 7.75 (t, J=7.8 Hz, 1H), 7.37-7.62 (m, 6H), 6.96 (s, 2H), 6.86 (d, J=3.6 Hz, 1H), 6.54 (d, J=3.5 Hz, 1H), 5.30 (d, J=5.9 Hz, 2H), 2.64 (s, 3H). Mass Spectrum (ESI) m/e=400 (M+1).

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 280 mg, 1.1 eq | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | NaH | 80 mg, 1.2 eq | [H-].[Na+]
reactant | 3-(chloromethyl)-2-(2-chlorophenyl)-8-methylquinoline | 1.7 mmol, 500 mg | ClCC=1C(=NC2=C(C=CC=C2C1)C)C1=C(C=CC=C1)Cl | C17H13Cl2N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-((4-chloro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl)-2-(2-chlorophenyl)-8-methylquinoline | ClC=1C2=C(N=CN1)N(C=C2)CC=2C(=NC1=C(C=CC=C1C2)C)C2=C(C=CC=C2)Cl | C23H16Cl2N4
